US05854236
N-[4-[[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3-pyridinecarboxamide
A mixture of 0.628 g (2 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.551 g (3 mmol) of nicotinoyl chloride, hydrochloride, 0.606 g (6 mmol) of triethylamine and 15 mg of 4-(dimethylamino)pyridine in 17 ml of dichloromethane is refluxed for 7 hours. The mixture is washed with H2O, 2N citric acid, H2O, 1N NaHCO3, brine and dried (Na2SO4). The solvent is removed and the solid recrystallized from hexane-dichloromethane to give 0.12 g of crystals, m.p. 217°-220° C. Anal Calc'd for C27H21N3O2H2O: C,74.1; H,5.3; N,9.6. Found: 73.6; H,4.7; N,9.8.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 2 mmol, 0.628 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | nicotinoyl chloride, hydrochloride | 3 mmol, 0.551 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 6 mmol, 0.606 g | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
product | 4-[[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3-pyridinecarboxamide | 0.12 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=C(C=CC=C3)C3=C(C=NC=C3)C(=O)N | C27H21N3O2
